US07259183B2
1.15 g (5 mmol) of 7-bromo-5-chloro-1H-indole were dissolved in 30 ml THF. At a temperature of −75° C. under argon 9.4 ml (15 mmol) of a 1.6 M n-butyl lithium solution in hexane were added dropwise. After complete addition the reaction mixture was stirred at 5° C. for 30 min, cooled to −75° C. and 10 g dry ice was added. The reaction mixture was warmed to rt and stirred for 15 min. It was poured onto 100 ml of water and extracted twice with EtOAc. The aqueous layer was acidified with 1N aqueous HCl solution and extracted twice with DCM. The combined organic layers were dried over sodium sulfate, filtered and the solvent was evaporated. The residue was treated with hexane and stirred for 10 min. The precipitate was filtered, washed with hexane and dried to yield 700 mg (72%) of 5-chloro-1H-indole-7-carboxylic acid as a white solid. MS (ISP) 194.0 (M−H)−.

reactant | 7-bromo-5-chloro-1H-indole | 5 mmol, 1.15 g | BrC=1C=C(C=C2C=CNC12)Cl | C8H5BrClN
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | dry ice | 10 g | C(=O)=O | CO2
reactant | water | 100 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-chloro-1H-indole-7-carboxylic acid | 700 mg, 72% | ClC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6ClNO2
